US09334244B2
Step 2: 2-(4-(isopropylsulfonyl)phenyl)-6-((trimethylsilyl)ethynyl)pyrazine
A solution of 2-chloro-6-(4-isopropylsulfonylphenyl)pyrazine (320 mg, 1.078 mmol) in anhydrous toluene (5 mL) was degassed and placed under an atmosphere of nitrogen. Pd(PPh3)2Cl2 (60.53 mg, 0.08624 mmol) and CuI (16.42 mg, 0.08624 mmol) were added and the reaction was again degassed under nitrogen. Et3N (109.1 mg, 150.3 μL, 1.078 mmol) as added followed by the quick addition of TMS-acetylene (116.5 mg, 167.6 μL, 1.186 mmol). After an initial exotherm the reaction was stirred at ambient temperature for 16 hours. The reaction was diluted with EtOAc and water and the layers separated. The aqueous layer was extracted with EtOAc (×2) and the combined organic extracts were washed with water, brine, dried (MgSO4), filtered and concentrated in vacuo. The residue was purified by column chromatography (ISCO Companion™, 40 g column, eluting with 0 to 20% EtOAc/Petroleum Ether) to give the sub-title product as an off-white solid (192 mg, 50% Yield). 1H NMR (400.0 MHz, DMSO) δ 9.21 (s, 1H), 8.67 (s, 1H), 8.25 (d, 2H), 7.86 (d, 2H), 3.35 (sept, 1H), 1.03 (d, 6H) and 0.15 (s, 9H) ppm; MS (ES+) 359.1

reactant | 2-chloro-6-(4-isopropylsulfonylphenyl)pyrazine | 1.078 mmol, 320 mg | ClC1=NC(=CN=C1)C1=CC=C(C=C1)S(=O)(=O)C(C)C | C13H13ClN2O2S
reactant | Et3N | 1.078 mmol, 150.3 μL, 109.1 mg | CCN(CC)CC | C6H15N
reactant | TMS-acetylene | 1.186 mmol, 167.6 μL, 116.5 mg | [Si](C)(C)(C)C#C | C5H10Si
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | water | O | H2O
catalyst | Pd(PPh3)2Cl2 | 0.08624 mmol, 60.53 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | CuI | 0.08624 mmol, 16.42 mg | [Cu]I
product | 2-(4-(isopropylsulfonyl)phenyl)-6-((trimethylsilyl)ethynyl)pyrazine | 192 mg, 50% Yield | C(C)(C)S(=O)(=O)C1=CC=C(C=C1)C1=NC(=CN=C1)C#C[Si](C)(C)C | C18H22N2O2SSi
